US04244961
To a solution of 1 g of 8-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one in 5 ml methanol is added 10 ml, 3% hydrochloric acid in methanol. Addition of 200 ml diethyl ether followed by filtration affords 8-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride, mp indefinite.

reactant | 8-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 1 g | COC1=C(OCC(CN2CCC3(CNC(O3)=O)CC2)O)C=CC=C1 | C17H24N2O5
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | 8-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-1-oxa-3,8-diazaspiro[4.5]decan-2-one hydrochloride | Cl.COC1=C(OCC(CN2CCC3(CNC(O3)=O)CC2)O)C=CC=C1 | InChI=1S/C17H24N2O5.ClH/c1-22-14-4-2-3-5-15(14)23-11-13(20)10-19-8-6-17(7-9-19)12-18-16(21)24-17;/h2-5,13,20H,6-12H2,1H3,(H,18,21);1H
